US09382231B2
Step 3. 4-{3-(Cyanomethyl)-3-[3-(hydroxymethyl)-3′-methyl-1H,1′H-4,4′-bipyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
To a solution of ethyl 1-{3-(cyanomethyl)-1-[2,5-difluoro-4-({[(1S)-2,2,2-trifluoro-1-methylethyl]amino}carbonyl)phenyl]azetidin-3-yl}-3′-methyl-1H,1′H-4,4′-bipyrazole-3-carboxylate (35 mg, 0.062 mmol) in THF (0.5 mL) was added 2.0 M lithium tetrahydroborate in THF (0.12 mL, 0.25 mmol). The reaction mixture was stirred at room temperature overnight. The reaction was quenched with water slowly. The aqueous layer was extracted with ethyl acetate. The organic layer was concentrated. The resulting residue was purified with prep-LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product. 1H NMR (400 MHz, CDCl3) δ 7.79-7.68 (m, 2H), 7.61 (s, 1H), 6.65 (m, 1H), 6.20 (m, 1H), 4.99-4.89 (m, 1H), 4.68 (s, 2H), 4.60 (d, J=8.5 Hz, 2H), 4.45 (dd, J=8.9 and 2.0 Hz, 2H), 3.38 (s, 2H), 2.34 (s, 3H), 1.41 (d, J=7.0 Hz, 3H). LCMS calculated for C23H23F5N7O2 (M+H)+: m/z=524.2. Found: 524.0.

reactant | ethyl 1-{3-(cyanomethyl)-1-[2,5-difluoro-4-({[(1S)-2,2,2-trifluoro-1-methylethyl]amino}carbonyl)phenyl]azetidin-3-yl}-3′-methyl-1H,1′H-4,4′-bipyrazole-3-carboxylate | 0.062 mmol, 35 mg | C(#N)CC1(CN(C1)C1=C(C=C(C(=C1)F)C(=O)N[C@H](C(F)(F)F)C)F)N1N=C(C(=C1)C=1C(=NNC1)C)C(=O)OCC | C25H24F5N7O3
reactant | lithium tetrahydroborate | 2.0 M | [BH4-].[Li+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.25 mmol, 0.12 mL | C1CCOC1 | C4H8O
product | 4-{3-(Cyanomethyl)-3-[3-(hydroxymethyl)-3′-methyl-1H,1′H-4,4′-bipyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@H](C(F)(F)F)C)C=C1F)F)N1N=C(C(=C1)C=1C(=NNC1)C)CO | C23H22F5N7O2
